2157-04-02 10:37:00 Physician Attending Progress Note
Chief Complaint: resp failure, abd perf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 THORACENTESIS - At [**2157-4-1**] 01:28 PM
 ARTERIAL LINE - STOP [**2157-4-1**] 03:00 PM - non functional
   Weaned to [**11-7**] during day but back overnight AC overnight - for
   hypoxemia, hypercarbia
   Needed platelets
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2157-4-1**] 07:47 PM
   Fluconazole - [**2157-4-1**] 09:57 PM
   Meropenem - [**2157-4-2**] 06:13 AM
   Metronidazole - [**2157-4-2**] 07:49 AM
   Infusions:
   Fentanyl - 170 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Norepinephrine - 0.17 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2157-4-1**] 01:22 PM
   Pantoprazole (Protonix) - [**2157-4-2**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2157-4-2**] 07:49 AM
   Other medications:
   Insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-2**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.5
   HR: 96 (79 - 116) bpm
   BP: 94/52(61) {85/41(57) - 117/68(79)} mmHg
   RR: 12 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 137.8 kg (admission): 128.2 kg
   Height: 71 Inch
             Total In:
                                                                  5,303 mL
                                                                  2,157 mL
   PO:
             TF:
   IVF:
                                                                  2,338 mL
                                                                  1,286 mL
   Blood products:
                                                                    935 mL
   Total out:
                                                                  6,548 mL
                                                                  3,440 mL
   Urine:
                                                                  3,940 mL
                                                                  3,065 mL
   NG:
                                                                    625 mL
                                                                    110 mL
   Stool:
   Drains:
                                                                  1,528 mL
                                                                     90 mL
   Balance:
                                                                 -1,245 mL
                                                                 -1,283 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 691 (636 - 691) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.31/59/84.[**Numeric Identifier 1132**]/32/0
   Ve: 12.5 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Gen: intubated but alert, follows commands
   CV: RR
   Chest: fair air movement decreased at bases
   Abd: soft min BS dressing CDI, 3 JP drains in place
   Ext: 4+ pitting edema
   Labs / Radiology
   8.9 g/dL
   53 K/uL
   138 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.5 mEq/L
   41 mg/dL
   106 mEq/L
   144 mEq/L
   26.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2157-3-31**]  05:15 AM
                             [**2157-3-31**]  09:05 AM
                             [**2157-3-31**]  05:48 PM
                             [**2157-4-1**]  03:20 AM
                             [**2157-4-1**]  07:05 AM
                             [**2157-4-1**]  03:11 PM
                             [**2157-4-1**]  05:26 PM
                             [**2157-4-1**]  07:16 PM
                             [**2157-4-1**]  10:41 PM
                             [**2157-4-2**]  04:49 AM
   WBC
   9.6
   9.2
   11.6
   8.1
   8.9
   Hct
   25.8
   26.0
   25.7
   24.7
   26.1
   Plt
   56
   55
   42
   58
   49
   68
   53
   Cr
   1.2
   1.2
   1.1
   1.1
   TCO2
   31
   31
   31
   Glucose
   141
   142
   143
   138
   Other labs: PT / PTT / INR:15.6/35.5/1.4, ALT / AST:24/30, Alk Phos / T
   Bili:52/1.9, Amylase / Lipase:29/22, Differential-Neuts:56.0 %,
   Band:2.0 %, Lymph:14.0 %, Mono:22.0 %, Eos:1.0 %, Fibrinogen:437 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:291 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CANCER (MALIGNANT NEOPLASM), OTHER
   1.       Resp Failure: in setting of sig volume overload, diuresing
   well on lasix drip but this requires vasopressor support to
   accomplaish. Will try back on PSV today- did get fatigued overnight so
   may need PSV by day and AC by night . This is difficult situation as
   goal is extubation as soon as possible but plan for no re intubation
   shudl he fail and family hopeful to have some meaningful time to speak
   with him on goals oif at all possible post extubation
   2.       Hemodynamics: intravasc dry but total body volume completely
   overloaded
 getting a little levophed to maintain MAP 60, but trying
   to gain ground on keeping negative
   3.        AML: Coagulapathic and thrombocytopenic. Transfuse plt only
   as needed for procedures or active bleeding.
   Remaining issues as per Housestaff Notes
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2157-4-1**] 07:39 PM 84.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-3-21**] 08:00 PM
   Midline - [**2157-3-23**] 08:00 AM
   Prophylaxis:
   DVT: sc hep TID
   Stress ulcer: PPI
   VAP: chlorhex HOB
   Communication:  Family meeting yesterday
 will try to meet again today
   to discuss optimizing for extubation
   Code status: Full code
   Disposition: ICU
   Total time spent: 45 minutes
   Patient is critically ill

2157-04-03 11:12:00 Physician Attending Progress Note
Chief Complaint: perforated abdomen,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Long meeting held with famil and they all came in for planned
   extubation
   Mr [**Name13 (STitle) 4444**] did well and remains extubated
   Hemodynamics have been stable. Lasix drip shut off overnight as was
   opver 2 liters negative
   Still on low dose pressor.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2157-4-1**] 07:47 PM
   Fluconazole - [**2157-4-1**] 09:57 PM
   Meropenem - [**2157-4-3**] 06:00 AM
   Metronidazole - [**2157-4-3**] 08:10 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-4-3**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2157-4-3**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-3**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 111 (95 - 119) bpm
   BP: 95/54(62) {79/24(48) - 112/67(77)} mmHg
   RR: 19 (10 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 137.8 kg (admission): 128.2 kg
   Height: 71 Inch
          Total In:
                                                                  4,860 mL
                                                                  2,217 mL
   PO:
          TF:
   IVF:
                                                                  2,470 mL
                                                                  1,077 mL
   Blood products:
                                                                    229 mL
                                                                    198 mL
   Total out:
                                                                  6,595 mL
                                                                  2,406 mL
   Urine:
                                                                  5,400 mL
                                                                  1,471 mL
   NG:
                                                                    410 mL
                                                                    370 mL
   Stool:
   Drains:
                                                                    315 mL
                                                                    525 mL
   Balance:
                                                                 -1,735 mL
                                                                   -189 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 854 (854 - 854) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: ///32/
   Ve: 11.7 L/min
   Physical Examination
   Gen: awake and answering some questions
   CV: RR
   Chest: fair air movement decreased at bases
   Abd: soft min BS dressing CDI, 3 JP drains in place
   Ext: 4+ pitting edema, massive scrotal edema
   Labs / Radiology
   8.4 g/dL
   38 K/uL
   122 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.2 mEq/L
   40 mg/dL
   100 mEq/L
   139 mEq/L
   24.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2157-4-1**]  03:11 PM
                             [**2157-4-1**]  05:26 PM
                             [**2157-4-1**]  07:16 PM
                             [**2157-4-1**]  10:41 PM
                             [**2157-4-2**]  04:49 AM
                             [**2157-4-2**]  12:00 PM
                             [**2157-4-2**]  04:52 PM
                             [**2157-4-2**]  06:00 PM
                             [**2157-4-2**]  10:51 PM
                             [**2157-4-3**]  04:48 AM
   WBC
   11.6
   8.1
   8.9
   7.2
   Hct
   25.7
   24.7
   26.1
   26.3
   24.8
   Plt
   58
   49
   68
   53
   40
   53
   38
   Cr
   1.1
   1.1
   1.1
   1.1
   TCO2
   31
   Glucose
   143
   138
   174
   136
   136
   122
   Other labs: PT / PTT / INR:15.7/34.3/1.4, ALT / AST:13/27, Alk Phos / T
   Bili:84/1.6, Amylase / Lipase:29/22, Differential-Neuts:56.0 %,
   Band:2.0 %, Lymph:14.0 %, Mono:22.0 %, Eos:1.0 %, Fibrinogen:437 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:2.5 g/dL, LDH:305 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CANCER (MALIGNANT NEOPLASM), OTHER
   1.       Resp Failure: We were able to extubate him successfully last
   night with a clear sense from family that he is not to be re intubated.
   He is tolerating but tyrick may be to keep him negative
   2.           Hemodynamics: intravasc dry but total body volume
   completely overloaded
 getting a little levophed to maintain MAP 60,
   but trying to gain ground on keeping negative to maintain adequate
   oxygenation. This is a short term solution as family is spenindong time
   with him today and needs to be readdressed in AM. That is, can we shuit
   off Lasix drip and leviphed and see if he maintains MAPS with
   transition to less aggressive care.
   3.           AML: Coagulapathic and thrombocytopenic. Transfuse plt
   only as needed for procedures or active bleeding- no plans for Rx touch
   base with Onc in AM.
   4.       Abdominal Perforation: still with open abdomen , no plans for
   intervention. Discussed with Dr [**Last Name (STitle) 4443**] this morning on rounds, her
   goal is comfort.
   Remaining issues as per Housestaff Notes
   ICU Care
   Nutrition: TPN w/ Lipids - [**2157-4-2**] 05:21 PM 84.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-3-21**] 08:00 PM
   Midline - [**2157-3-23**] 08:00 AM
   Prophylaxis:
   DVT: sc hep TID
   Stress ulcer: PPI
   Communication:  with family, needs repeat family meeting to discuss
   possible hospice mode
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35

2157-04-05 15:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 79 year-old male with a history of HTN, HLP, atrial
   fibrillation, h/o duodenal ulcer s/p surgery admitted with leukemia
   cutis/AML, left thigh MRSA cellulitis with hospital course c/b c.diff
   now s/p right hemicolectomy and ileostomy
   24 Hour Events:
   - nothing overnight
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2157-4-4**] 09:07 PM
   Metronidazole - [**2157-4-5**] 07:50 AM
   Meropenem - [**2157-4-5**] 11:45 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2157-4-4**] 06:30 PM
   Heparin Sodium (Prophylaxis) - [**2157-4-4**] 11:29 PM
   Fentanyl - [**2157-4-5**] 04:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-5**] 02:59 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.1
C (97
   HR: 116 (82 - 117) bpm
   BP: 85/49(53) {85/43(53) - 117/86(92)} mmHg
   RR: 21 (17 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 137.8 kg (admission): 128.2 kg
   Height: 71 Inch
          Total In:
                                                                  3,958 mL
                                                                  2,410 mL
   PO:
          TF:
   IVF:
                                                                  1,345 mL
                                                                    969 mL
   Blood products:
                                                                    583 mL
                                                                    202 mL
   Total out:
                                                                  5,602 mL
                                                                  2,295 mL
   Urine:
                                                                  3,420 mL
                                                                    840 mL
   NG:
                                                                    950 mL
                                                                    350 mL
   Stool:
   Drains:
                                                                    880 mL
                                                                    745 mL
   Balance:
                                                                 -1,644 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: EOMI
   Head, Ears, Nose, Throat: NG tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   42 K/uL
   9.7 g/dL
   142 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.5 mEq/L
   39 mg/dL
   108 mEq/L
   148 mEq/L
   28.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2157-4-2**]  10:51 PM
                             [**2157-4-3**]  04:48 AM
                             [**2157-4-3**]  02:08 PM
                             [**2157-4-3**]  11:05 PM
                             [**2157-4-4**]  02:25 AM
                             [**2157-4-4**]  05:29 AM
                             [**2157-4-4**]  12:59 PM
                             [**2157-4-4**]  11:40 PM
                             [**2157-4-5**]  07:34 AM
                             [**2157-4-5**]  09:46 AM
   WBC
   7.2
   7.3
   8.7
   8.0
   Hct
   24.8
   26.1
   26.3
   26.3
   28.5
   Plt
   53
   38
   44
   38
   43
   41
   34
   42
   42
   Cr
   1.1
   1.0
   1.0
   0.9
   Glucose
   122
   149
   158
   142
   Other labs: PT / PTT / INR:16.5/35.3/1.5, ALT / AST:13/27, Alk Phos / T
   Bili:84/1.6, Amylase / Lipase:29/22, Differential-Neuts:41.0 %,
   Band:3.0 %, Lymph:23.0 %, Mono:30.0 %, Eos:0.0 %, Fibrinogen:437 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:305 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   79 year-old male with a history of HTN, HLP, atrial fibrillation, h/o
   duodenal ulcer s/p surgery admitted with leukemia cutis/AML, left thigh
   MRSA cellulitis with hospital course c/b c.diff now s/p right
   hemicolectomy and ileostomy
   # Septic shock: Presumably due to continued infection and persistent
   duodenal perforation with extravasation of intestinal contents.
   Patient is continuing to have fevers with wide differential including
   infection, tumor, etc.  Overall trend is toward improvement.  We will
   attempt to wean pressors and replete with blood products +/- albumin as
   needed.  CT on [**2157-3-30**] showed persistent duodetal perforation but no
   clear evidence of abscess.   In contact with surgery (pager [**Numeric Identifier 4453**]).
   - Continue broad spectrum abx meropenem d1=[**3-22**] (day 14), metronidazole
   d1=[**3-21**] (day 15), fluconazole d1=[**3-21**] (day 15)
   - ID reccs d/c vancomycin- done
   - blood products as needed for intravascular volume
   - d/c'ed lasix gtt, pt diuresing well w/o lasix
   - titrate levo PRN
   - Keep Hct>25, Plt.>50 per [**Doctor First Name **] recs
   - Hct, Plt, Coags q12hrs
    # Respiratory Failure: both hypercarbic/hypoxemic respiratory failure
   in the setting of sepsis.  CXR with pulmonary edema and pleural
   effusions.  Improved aeration of the left lung after pleural drain
   placement and on right side after thoracentesis.  S/p bronch on [**3-23**]
   for decreased right lung size but mucous plug again absent.  Bronched
   again [**4-1**] w/o clear plugging or collapse.   Extubated successfully on
   [**4-2**].
   - continue supplemental oxygen
   - consider prn nebs, though does not carry a diagnosis of COPD
   # Coagulopathy:  On [**Hospital Unit Name 10**] admission  met parameters for DIC based on
   elevated FDP but not clinically in DIC given absence of diffuse
   bleeding.  No longer has evidence of DIC on labs.
   - continue blood transfusions as needed
   - coags, hct, and platlets q12hr with goal INR<=1.6
   - s/p vitamin K 5mg IV x 2 on [**2157-3-23**]
    # Hemicolectomy and duodenal perforation:  Sepsis management as above,
   transfusion parameters as above. Collaborating with surgical team
    # [**Last Name (un) 2406**]:  ATN with muddy brown casts in urine.  Was oliguric on [**2157-3-22**]
   but urine output increasing as of [**2157-3-23**].  Concern initially for
   worsening kidney function and possible need for dialysis but UOP
   improving.  Likely experienced ATN from hypoperfusion in setting of
   sepsis.  Now resolved.
   - monitor lytes
    # C.diff: Diagnosed in setting of abdominal pain and relatively soon
   interval development of septic picture.
   - cont with IV flagyl (d1=[**3-21**]; day 15)
   - surgery following
    # AML/Leukemia cutis:  S/p decitabine 5day palliative induction
   therapy.
   - tx to keep HCT>25 based on consultation with surgery
   - tx to keep plts >50K (transfuse this AM)
   - BMT reccs
    # Atrial fibrillation with RVR: on arrival, very tachycardic to
   130-150s.  Likely all response to being septic and post operatively.
   Norepinephrine also likely culprit.  Cards consulted and do not think
   TEE followed by cardioversion indicated at this time. If becomes
   acutely unstable, consider emergent cardioversion without TEE followed
   by amio gtt.  HR stable over last several days.
   - hold nodal agents for now
   - no amio for now- not anticoagulated so concern for embolic even if
   spontaneously converts
    # Sacral deep tissue injury:  Wound nurses following.
   # FEN: NPO for now; IVFs as above; TPN
   - replete lytes PRN
   # Comm: Wife [**Telephone/Fax (1) 4140**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2157-4-4**] 04:25 PM 83.[**Telephone/Fax (5) 1993**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-3-21**] 08:00 PM
   Midline - [**2157-3-23**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2157-04-06 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 79 year-old male with a history of HTN, HLP, atrial
   fibrillation, h/o duodenal ulcer s/p surgery admitted with leukemia
   cutis/AML, left thigh MRSA cellulitis with hospital course c/b c.diff
   now s/p right hemicolectomy and ileostomy
   24 Hour Events:
   - Mtng b/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3**], BMT, ICU family wants to take pt home for remaining
   time he has left. Plan for [**First Name5 (NamePattern1) 1072**] [**Last Name (NamePattern1) 1073**] (BMT SW) to coordinate home
   with hospice via 7F.
   - Off levophed
   Allergies:
   Penicillins Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2157-4-5**] 09:45 PM
   Metronidazole - [**2157-4-6**] 12:30 AM
   Meropenem - [**2157-4-6**] 05:51 AM
   Other medications:
   1. Magnesium Sulfate Replacement IV Sliding Scale
   2. Calcium Replacement (Oncology)  IV Sliding Scale
   12. MetRONIDAZOLE (FLagyl) 500 mg IV Q8H
   3. Acetaminophen 325-650 mg PR Q6H:PRN
   13. Meropenem 500 mg IV Q6H d1=[**3-22**]
   14. Metoprolol Tartrate 5 mg IV Q6H  Order date: [**4-4**] @ 1343
   5. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]  Order date:
   [**3-22**] @ 1720 15. Midazolam 0.5-1 mg IV ONCE MR2  Order date: [**3-31**] @
   1511
   6. Fentanyl Citrate 25-100 mcg IV Q1H:PRN pain  Order date: [**4-3**] @
   1536 16. Norepinephrine 0.3-0.5 mcg/kg/min IV DRIP TITRATE TO MAP>60
   Order date: [**3-22**] @ 1720
   7. Fluconazole 400 mg IV Q24H  Order date: [**3-23**] @ [**2069**] 17.
   Pantoprazole 40 mg IV Q12H  Order date: [**3-30**] @ 1534
   8. Heparin Flush (10 units/ml) 2 mL IV PRN line flush
   PICC, heparin dependent: Flush with 10mL Normal Saline followed by
   Heparin as above daily and PRN per lumen.  Order date: [**3-22**] @ 1720 18.
   Potassium Chloride Replacement (Oncology)  IV Sliding Scale Order date:
   [**4-4**] @ 0031
   9. Heparin 5000 UNIT SC TID  Order date: [**3-28**] @ 1722 19. Sodium
   Chloride 0.9% Flush 10 mL IV PRN line flush  Order date: [**3-22**] @ 1720
   10. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**3-22**] @ 1720
   Flowsheet Data as of  [**2157-4-6**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 108 (92 - 132) bpm
   BP: 89/60(65) {75/33(46) - 120/65(71)} mmHg
   RR: 21 (19 - 39) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 137.8 kg (admission): 128.2 kg
   Height: 71 Inch
          Total In:
                                                                  3,428 mL
                                                                  1,249 mL
   PO:
          TF:
   IVF:
                                                                  1,240 mL
                                                                    300 mL
   Blood products:
                                                                    402 mL
                                                                    350 mL
   Total out:
                                                                  3,805 mL
                                                                    975 mL
   Urine:
                                                                  1,720 mL
                                                                    385 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
                                                                  1,145 mL
                                                                    350 mL
   Balance:
                                                                   -377 mL
                                                                    274 mL
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: EOMI
   Head, Ears, Nose, Throat: NG tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   33 K/uL
   9.1 g/dL
   143 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.3 mEq/L
   47 mg/dL
   110 mEq/L
   147 mEq/L
   27.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2157-4-3**]  02:08 PM
                             [**2157-4-3**]  11:05 PM
                             [**2157-4-4**]  02:25 AM
                             [**2157-4-4**]  05:29 AM
                             [**2157-4-4**]  12:59 PM
                             [**2157-4-4**]  11:40 PM
                             [**2157-4-5**]  07:34 AM
                             [**2157-4-5**]  09:46 AM
                             [**2157-4-5**]  04:46 PM
                             [**2157-4-6**]  05:21 AM
   WBC
   7.3
   8.7
   8.0
   5.8
   6.1
   Hct
   26.1
   26.3
   26.3
   28.5
   24.9
   27.3
   Plt
   44
   38
   43
   41
   34
   42
   42
   50
   33
   Cr
   1.0
   1.0
   0.9
   1.0
   Glucose
   149
   158
   142
   143
   Other labs: PT / PTT / INR:15.8/31.7/1.4, ALT / AST:13/27, Alk Phos / T
   Bili:84/1.6, Amylase / Lipase:29/22, Differential-Neuts:41.0 %,
   Band:3.0 %, Lymph:23.0 %, Mono:30.0 %, Eos:0.0 %, Fibrinogen:437 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:305 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   79 year-old male with a history of HTN, HLP, atrial fibrillation, h/o
   duodenal ulcer s/p surgery admitted with leukemia cutis/AML, left thigh
   MRSA cellulitis with hospital course c/b c.diff now s/p right
   hemicolectomy and ileostomy
   # Septic shock: Presumably due to continued infection and persistent
   duodenal perforation with extravasation of intestinal contents.
   Patient is continuing to have fevers with wide differential including
   infection, tumor, etc.  Overall trend is toward improvement.  We will
   attempt to wean pressors and replete with blood products +/- albumin as
   needed.  CT on [**2157-3-30**] showed persistent duodetal perforation but no
   clear evidence of abscess.   In contact with surgery (pager [**Numeric Identifier 4453**]).
   - Continue broad spectrum abx meropenem d1=[**3-22**] (day 14), metronidazole
   d1=[**3-21**] (day 15), fluconazole d1=[**3-21**] (day 15)
   - ID reccs d/c vancomycin- done
   - blood products as needed for intravascular volume
   - d/c'ed lasix gtt, pt diuresing well w/o lasix
   - titrate levo PRN
   - Keep Hct>25, Plt.>50 per [**Doctor First Name **] recs
   - Hct, Plt, Coags q12hrs
    # Respiratory Failure: both hypercarbic/hypoxemic respiratory failure
   in the setting of sepsis.  CXR with pulmonary edema and pleural
   effusions.  Improved aeration of the left lung after pleural drain
   placement and on right side after thoracentesis.  S/p bronch on [**3-23**]
   for decreased right lung size but mucous plug again absent.  Bronched
   again [**4-1**] w/o clear plugging or collapse.   Extubated successfully on
   [**4-2**].
   - continue supplemental oxygen
   - consider prn nebs, though does not carry a diagnosis of COPD
   # Coagulopathy:  On [**Hospital Unit Name 10**] admission  met parameters for DIC based on
   elevated FDP but not clinically in DIC given absence of diffuse
   bleeding.  No longer has evidence of DIC on labs.
   - continue blood transfusions as needed
   - coags, hct, and platlets q12hr with goal INR<=1.6
   - s/p vitamin K 5mg IV x 2 on [**2157-3-23**]
    # Hemicolectomy and duodenal perforation:  Sepsis management as above,
   transfusion parameters as above. Collaborating with surgical team
    # [**Last Name (un) 2406**]:  ATN with muddy brown casts in urine.  Was oliguric on [**2157-3-22**]
   but urine output increasing as of [**2157-3-23**].  Concern initially for
   worsening kidney function and possible need for dialysis but UOP
   improving.  Likely experienced ATN from hypoperfusion in setting of
   sepsis.  Now resolved.
   - monitor lytes
    # C.diff: Diagnosed in setting of abdominal pain and relatively soon
   interval development of septic picture.
   - cont with IV flagyl (d1=[**3-21**]; day 15)
   - surgery following
    # AML/Leukemia cutis:  S/p decitabine 5day palliative induction
   therapy.
   - tx to keep HCT>25 based on consultation with surgery
   - tx to keep plts >50K (transfuse this AM)
   - BMT reccs
    # Atrial fibrillation with RVR: on arrival, very tachycardic to
   130-150s.  Likely all response to being septic and post operatively.
   Norepinephrine also likely culprit.  Cards consulted and do not think
   TEE followed by cardioversion indicated at this time. If becomes
   acutely unstable, consider emergent cardioversion without TEE followed
   by amio gtt.  HR stable over last several days.
   - hold nodal agents for now
   - no amio for now- not anticoagulated so concern for embolic even if
   spontaneously converts
    # Sacral deep tissue injury:  Wound nurses following.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2157-4-5**] 07:01 PM 84.5 mL/hour, NPO
   Lytes: sliding scale correction
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-3-21**] 08:00 PM
   Midline - [**2157-3-23**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Wife [**Telephone/Fax (1) 4140**]
   Code status: DNR (do not resuscitate)
   Disposition:

2157-04-07 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 79 year-old male with a history of HTN, HLP, atrial
   fibrillation, h/o duodenal ulcer s/p surgery admitted with leukemia
   cutis/AML, left thigh MRSA cellulitis with hospital course c/b c.diff
   now s/p right hemicolectomy and ileostomy
   24 Hour Events:
   - Mtng b/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3**], BMT, ICU family wants to take pt home for remaining
   time he has left. Plan for [**First Name5 (NamePattern1) 1072**] [**Last Name (NamePattern1) 1073**] (BMT SW) to coordinate home
   with hospice via 7F.
   - Off levophed
   - transfused 1U pRBC for Hct 24.
   - started on florinef and increased
   - upper GI swallow to take out NG tube
   Subjective:  Pt denies any complaints currently. Pt says he is not
   short of breath, and wants to go home.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2157-4-6**] 09:00 PM
   Metronidazole - [**2157-4-6**] 11:44 PM
   Meropenem - [**2157-4-7**] 05:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-4-7**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2157-4-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-7**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 95 (87 - 122) bpm
   BP: 76/44(48) {72/18(35) - 102/63(72)} mmHg
   RR: 34 (17 - 34) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 137.8 kg (admission): 128.2 kg
   Height: 71 Inch
             Total In:
                                                                  3,997 mL
                                                                  1,144 mL
   PO:
                                                                    590 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,025 mL
                                                                    148 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,435 mL
                                                                  1,890 mL
   Urine:
                                                                  1,630 mL
                                                                    425 mL
   NG:
                                                                    700 mL
                                                                    750 mL
   Stool:
                                                                     40 mL
   Drains:
                                                                    655 mL
                                                                    260 mL
   Balance:
                                                                    562 mL
                                                                   -746 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: EOMI
   Head, Ears, Nose, Throat: NG tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   33 K/uL
   9.1 g/dL
   143 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.3 mEq/L
   47 mg/dL
   110 mEq/L
   147 mEq/L
   27.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2157-4-3**]  02:08 PM
                             [**2157-4-3**]  11:05 PM
                             [**2157-4-4**]  02:25 AM
                             [**2157-4-4**]  05:29 AM
                             [**2157-4-4**]  12:59 PM
                             [**2157-4-4**]  11:40 PM
                             [**2157-4-5**]  07:34 AM
                             [**2157-4-5**]  09:46 AM
                             [**2157-4-5**]  04:46 PM
                             [**2157-4-6**]  05:21 AM
   WBC
   7.3
   8.7
   8.0
   5.8
   6.1
   Hct
   26.1
   26.3
   26.3
   28.5
   24.9
   27.3
   Plt
   44
   38
   43
   41
   34
   42
   42
   50
   33
   Cr
   1.0
   1.0
   0.9
   1.0
   Glucose
   149
   158
   142
   143
   Other labs: PT / PTT / INR:15.8/31.7/1.4, ALT / AST:13/27, Alk Phos / T
   Bili:84/1.6, Amylase / Lipase:29/22, Differential-Neuts:41.0 %,
   Band:3.0 %, Lymph:23.0 %, Mono:30.0 %, Eos:0.0 %, Fibrinogen:437 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:305 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   79 year-old male with a history of HTN, HLP, atrial fibrillation, h/o
   duodenal ulcer s/p surgery admitted with leukemia cutis/AML, left thigh
   MRSA cellulitis with hospital course c/b c.diff now s/p right
   hemicolectomy and ileostomy
   # Goals of care: Setting up home with hospice. Insurance will not cover
   TPN if prognosis less than 3months.
   - Surgery service wants pt to be transferred to their service, but pt
   wants to be d/c to home hospice
   # Septic shock: Presumably due to continued infection and persistent
   duodenal perforation with extravasation of intestinal contents. Off
   pressors and repleting with blood products +/- albumin as needed.  CT
   on [**2157-3-30**] showed persistent duodetal perforation but no clear evidence
   of abscess.   In contact with surgery (pager [**Numeric Identifier 4453**]).
   - Continue broad spectrum abx meropenem d1=[**3-22**] (day 14), metronidazole
   d1=[**3-21**] (day 15), fluconazole d1=[**3-21**] (day 15)
   - off vanco
   - blood products as needed for intravascular volume
   - d/c'ed lasix gtt, pt diuresing well w/o lasix
   - off levo
   - Keep Hct>25, Plt.>50 per [**Doctor First Name **] recs
   - Hct, Plt, Coags q12hrs
   # Coagulopathy:  On [**Hospital Unit Name 10**] admission  met parameters for DIC based on
   elevated FDP but not clinically in DIC given absence of diffuse
   bleeding.  No longer has evidence of DIC on labs.
   - continue blood transfusions as needed
    # Hemicolectomy and duodenal perforation:  Sepsis management as above,
   transfusion parameters as above. Collaborating with surgical team
    # [**Last Name (un) 2406**]:  Now resolved.
   - monitor lytes
    # C.diff: Diagnosed in setting of abdominal pain and relatively soon
   interval development of septic picture.
   - cont with IV flagyl (d1=[**3-21**]; day 15)
   - surgery following
    # AML/Leukemia cutis:  S/p decitabine 5day palliative induction
   therapy.
   - tx to keep HCT>25 based on consultation with surgery
   - tx to keep plts >50K (transfuse this AM)
   - BMT reccs
    # Atrial fibrillation with RVR: on arrival, very tachycardic to
   130-150s.  Likely all response to being septic and post operatively.
   Norepinephrine also likely culprit.  Cards consulted and do not think
   TEE followed by cardioversion indicated at this time. If becomes
   acutely unstable, consider emergent cardioversion without TEE followed
   by amio gtt.  HR stable over last several days.
   - hold nodal agents for now
   - no amio for now- not anticoagulated so concern for embolic even if
   spontaneously converts
    # Sacral deep tissue injury:  Wound nurses following.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2157-4-5**] 07:01 PM 84.5 mL/hour, NPO
   Lytes: sliding scale correction
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-3-21**] 08:00 PM
   Midline - [**2157-3-23**] 08:00 AM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: IV PPI
   Communication:  Wife [**Telephone/Fax (1) 4140**]
   Code status: DNR (do not resuscitate)
   Disposition: home with hospice